US07951954B2
b) (3-Formyl-4-methoxy-phenyl)-acetic acid
Copper(II) nitrate trihydrate (3.3 g) was added to (3-bromomethyl-4-methoxy-phenyl)-acetic acid (1.4 g) in water (50 mL) and heated to reflux for 75 minutes. On cooling the reaction mixture was acidified with 2M aqueous hydrochloric acid and extracted with ethyl acetate. The organic phase was separated and washed sequentially with 2M aqueous hydrochloric acid (2×50 mL), brine (50 mL), dried (magnesium sulfate) and concentrated. Purification on silica, eluting iso-hexane/ethyl acetate [4:1 to 1:1 to 0:1], to give the subtitle compound as a solid (0.26 g).

reactant | (3-bromomethyl-4-methoxy-phenyl)-acetic acid | 1.4 g | BrCC=1C=C(C=CC1OC)CC(=O)O | C10H11BrO3
reactant | hydrochloric acid | 2M | Cl | ClH
reactant | water | 50 mL | O | H2O
catalyst | Copper(II) nitrate trihydrate | 3.3 g | O.O.O.[N+](=O)([O-])[O-].[Cu+2].[N+](=O)([O-])[O-]
product | (3-Formyl-4-methoxy-phenyl)-acetic acid | 0.26 g | C(=O)C=1C=C(C=CC1OC)CC(=O)O | C10H10O4
